US03983111
21-Bromo-2β-ethoxy-3α-hydroxy-5α-pregnane-11,20-dione
Bromine (0.53 g.) in methanol (1.45 ml.) was added dropwise to a stirred solution of 3α-hydroxy-2β-ethoxy-5α-pregnane-11,20-dione (2.0 g) in methanol (15 ml) containing a trace of acetyl chloride at 0°. The addition took 2 hr. and the clear solution was then poured into water and collected by filtration, washed with water and dried in vacuo to give title compound.

reactant | Bromine | 0.53 g | BrBr | Br2
reactant | 3α-hydroxy-2β-ethoxy-5α-pregnane-11,20-dione | 2.0 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1OCC)C)=O)C | C23H36O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | methanol | 1.45 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 21-Bromo-2β-ethoxy-3α-hydroxy-5α-pregnane-11,20-dione | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3C(C[C@]12C)=O)OCC)O)=O | C23H35BrO4
